US09120761B2
(e) Methyl 2-(2-(2-(2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I15)
Methyl 2-(2-((2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate (I14) (1.50 g, 3.76 mmol) was taken up in DMF (30 mL) then 10% Pd/C (750 mg) was added. The resulting suspension was stirred under H2 (1 atm) for 16 hours at room temperature. The crude reaction mixture was filtered through Celite, washing with MeOH. The filtrate was evaporated under reduced pressure to give a yellow liquid which was adsorbing onto silica. The silica adsorbed material was chromatographed on silica gel (0-100% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I15) (1.38 g, 91%) as a yellow solid; 1H NMR (400 MHz, CDCl3) δ 9.07 (d, J=0.7 Hz, 1H), 7.30-7.12 (m, 4H), 3.72 (s, 2H), 3.68 (s, 3H), 3.41-3.35 (m, 2H), 3.35 (s, 3H), 3.20 (dd, J=9.6, 6.3 Hz, 2H). LCMS Method C: rt 5.92 min; m/z 425.1 (M+Na), 403.1 (M+1), 401.1 (M−1), 371.1 (M—OMe), 343.1 (M—COOMe).

reactant | Methyl 2-(2-((2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate | 3.76 mmol, 1.50 g | CS(=O)(=O)C1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C17H13F3N2O4S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 750 mg | [Pd] | Pd
product | Methyl 2-(2-(2-(2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 1.38 g, 91% | CS(=O)(=O)C1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C17H17F3N2O4S
